US08536166B2
4-Bromo-2-methyl-benzoic acid methyl ester (4 g, 17.46 mmol), isopropenylboronic acid pinacol ester (3.228 g, 19.21 mmol) and cesium carbonate (19.913 g, 61.11 mmol) were treated with a degassed solution of 15 ml dioxane/5 ml water. After 5 min stirring [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex (0.718 g, 0.873 mmol) was added and heated to 120° C. for 40 min in the microwave. The reaction mixture was filtered over cellulose; washed with 20 ml dioxane and concentrated in vacuo. The residue was purified by 120 g silica gel chromatography (gradient elution 0-50% ethyl acetate in hexane during 50 min) to yield 4-Isopropenyl-2-methyl-benzoic acid methyl ester (2.94 g, 15.45 mmol). MS (ESI) 191.3 (M+H)+

reactant | 4-Bromo-2-methyl-benzoic acid methyl ester | 17.46 mmol, 4 g | COC(C1=C(C=C(C=C1)Br)C)=O | C9H9BrO2
reactant | isopropenylboronic acid pinacol ester | 19.21 mmol, 3.228 g | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | cesium carbonate | 61.11 mmol, 19.913 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-Isopropenyl-2-methyl-benzoic acid methyl ester | 15.45 mmol, 2.94 g | COC(C1=C(C=C(C=C1)C(=C)C)C)=O | C12H14O2
